US08809371B2
Triethylamine (765 μl), tert-butylalcohol (10 ml), and DPPA (1.18 ml) were added to a 1,4-dioxane (20 ml) solution containing 2-methyl-1,3-benzoxazol-6-carboxylic acid (885 mg), followed by stirring at 100° C. for 1 hour and 30 minutes. The solvent was distilled away under reduced pressure, and a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate were added. The organic layer was collected, washed with saturated saline, and dried over anhydrous sodium sulfate, and then the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography, and a white solid of tert-butyl(2-methyl-1,3-benzoxazol-6-yl)carbamate (1.00 g) was thus obtained.

reactant | Triethylamine | 765 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butylalcohol | 10 ml | C(C)(C)(C)O | C4H10O
reactant | DPPA | 1.18 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 2-methyl-1,3-benzoxazol-6-carboxylic acid | 885 mg | CC=1OC2=C(N1)C=CC(=C2)C(=O)O | C9H7NO3
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | tert-butyl(2-methyl-1,3-benzoxazol-6-yl)carbamate | 1.00 g | C(C)(C)(C)OC(NC1=CC2=C(N=C(O2)C)C=C1)=O | C13H16N2O3
